US08314138B2
Part B. An oven-dried sealed tube was charged with 2-bromo-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (1.0 g, 3.03 mmol, 1.0 equiv). The sealed tube was purged with nitrogen and Rieke zinc (10 mL, 10 g of zinc in 100 mL of tetrahydrofuran) was added. The reaction was heated in the microwave oven for 15 min at 100° C. Stirring was stopped and the remaining zinc was allowed to settle. The supernatant containing the zinc reagent was transferred via syringe to a solution of 2,6-diiodopyrazine (704 mg, 2.1 mmol, 0.7 equiv), Pd(PPh3)4 (175 mg, 0.2 mmol, 5 mol %) in tetrahydrofuran (2 mL) and dimethyl formamide (0.1 mL). The reaction mixture was purged with nitrogen for 10 min, then stirred at 140° C. for 20 hr. After cooling, the solvent was removed in vacuo and the crude product was purified by column chromatography [SiO2, ethyl acetate/heptane, 10:90 to 40:60, v/v] to afford 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (100 mg, 7%). MS (M+H)+=455.1, Rt=1.53 min.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 3.03 mmol, 1.0 g, 1.0 equiv | FC1=CC=C(CNC(=O)C2=C(N=C(S2)Br)C)C=C1 | C12H10BrFN2OS
reactant | 2,6-diiodopyrazine | 2.1 mmol, 704 mg, 0.7 equiv | IC1=NC(=CN=C1)I | C4H2I2N2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dimethyl formamide | 0.1 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.2 mmol, 175 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 100 mg, 7% | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)I)C)C=C1 | C16H12FIN4OS
